US09108966B2
NCS (290 mg, 2.17 mmol) and pyridine (2 drops) were added to a solution of (E)-6-(benzyloxy)-7-oxo-1,6-diazabicyclo[3.2.1]octane-2-carbaldehyde oxime (560 mg, 2.04 mmol) in dry DCM (15 mL). The reaction mixture was stirred at rt for about 3-4 hrs. Ethynyltrimethylsilane (240 mg, 2.44 mmol) was added, then a solution of DIPEA (290 mg, 2.24 mmol) in dry DCM (5 mL) was added slowly over a 0.5 h period. After addition, the reaction mixture was stirred at rt overnight. The reaction mixture was then washed with 10% citric acid, water, saturated sodium chloride (10 mL), dried and concentrated. The residue was purified by silica gel column chromatography (10:1 petroleum ether/EtOAc) to afford (2S,5R)-6-(benzyloxy)-2-(5-(trimethylsilyl)isoxazol-3-yl)-1,6-diazabicyclo[3.2.1]octan-7-one (300 mg, 41%) as a colorless oil. ESI-MS (EI+, m/z): 372 [M+H]+.

reactant | NCS | 2.17 mmol, 290 mg | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
reactant | (E)-6-(benzyloxy)-7-oxo-1,6-diazabicyclo[3.2.1]octane-2-carbaldehyde oxime | 2.04 mmol, 560 mg | C(C1=CC=CC=C1)ON1C2CCC(N(C1=O)C2)/C=N/O | C14H17N3O3
reactant | Ethynyltrimethylsilane | 2.44 mmol, 240 mg | C(#C)[Si](C)(C)C | C5H10Si
reactant | DIPEA | 2.24 mmol, 290 mg | CCN(C(C)C)C(C)C | C8H19N
catalyst | pyridine | 2 drops | N1=CC=CC=C1 | C5H5N
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | (2S,5R)-6-(benzyloxy)-2-(5-(trimethylsilyl)isoxazol-3-yl)-1,6-diazabicyclo[3.2.1]octan-7-one | 300 mg, 41% | C(C1=CC=CC=C1)ON1[C@@H]2CC[C@H](N(C1=O)C2)C2=NOC(=C2)[Si](C)(C)C | C19H25N3O3Si
